US06204264B1
2-(2-Henicosyl-1H-benzimidazol-1-yl)-N,N-dimethyl-1-ethanamine monohydrochloride (Compound 33)
4N Hydrochloric acid/ethyl acetate solution (1.44 ml) was added to a solutior containing 2-(2-henicosyl-1H-benzimidazol-1-yl)-N,N-dimethyl-1-ethanamine (2.580 g) in ethyl acetate (26 ml). After being stirred for 30 minutes at room temperature, the reaction mixture was concentrated. The residue was recrystallized with the mixed solution of ethyl acetate-ethanol, thereby yielding the entitled compound (2.269 g) as white crystals.

reactant | Hydrochloric acid ethyl acetate | 4N, 1.44 ml | Cl.C(C)(=O)OCC
reactant | 2-(2-henicosyl-1H-benzimidazol-1-yl)-N,N-dimethyl-1-ethanamine | 2.580 g | C(CCCCCCCCCCCCCCCCCCCC)C1=NC2=C(N1CCN(C)C)C=CC=C2 | C32H57N3
solvent | ethyl acetate | 26 ml | C(C)(=O)OCC | C4H8O2
product | 2-(2-Henicosyl-1H-benzimidazol-1-yl)-N,N-dimethyl-1-ethanamine monohydrochloride | 2.269 g | Cl.C(CCCCCCCCCCCCCCCCCCCC)C1=NC2=C(N1CCN(C)C)C=CC=C2 | InChI=1S/C32H57N3.ClH/c1-4-5-6-7-8-9-10-11-12-13-14-15-16-17-18-19-20-21-22-27-32-33-30-25-23-24-26-31(30)35(32)29-28-34(2)3;/h23-26H,4-22,27-29H2,1-3H3;1H
